US09056914B2
To a solution of 390 mg of ethyl 4-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)ethyl]-(2-nitro-benzenesulfonyl)-amino]-butanoate in 10 ml of acetonitrile, under argon, was added 766 mg of caesium carbonate and 160 μl of thiophenol. The mixture was stirred for 17 hours at room temperature and then filtered through a sinter of porosity 4. The cake was washed with EtOAc and the filtrate was concentrated under reduced pressure and purified on a Mega BE-SCX, 2GM 12ML cartridge (Varian), using washing with MeOH and detachment of the expected product with a 2N solution of ammonia in MeOH. The fractions containing the desired product were combined and concentrated under reduced pressure. 183 mg of ethyl 4-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-butanoate were obtained. LC/MS (B): tr=0.68 min; [M+H]+: m/z 313.

reactant | ethyl 4-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)ethyl]-(2-nitro-benzenesulfonyl)-amino]-butanoate | 390 mg | OCC1=NC(=CC(=C1)OCCN(CCCC(=O)OCC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CO | C21H27N3O9S
reactant | caesium carbonate | 766 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thiophenol | 160 μl | C1(=CC=CC=C1)S | C6H6S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | ethyl 4-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-butanoate | 183 mg | OCC1=NC(=CC(=C1)OCCNCCCC(=O)OCC)CO | C15H24N2O5
